US05559141
b) 1-benzyl-5-[4-(4-fluorophenyl)-1 -oxobutyl]-1H-imidazole
The mixture of 36,1 g of 1-benzyl-5-(4-(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole and 53 g manganese dioxide in 550 ml of tetrachloroethylene is refluxed stirring for four hours. The reaction mixture is filtered through siliceous earth and the flitrate is evaporated to dryness. The product is crystallized from acetone as hydrochloride salt.

reactant | 1-benzyl-5-(4-(4-fluorophenyl)-1-hydroxybutyl]-1H-imidazole | 36,1 g | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)O | C20H21FN2O
solvent | tetrachloroethylene | 550 ml | ClC(=C(Cl)Cl)Cl | C2Cl4
catalyst | manganese dioxide | 53 g | [O-2].[O-2].[Mn+4]
product | 1-benzyl-5-[4-(4-fluorophenyl)-1 -oxobutyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C(CCCC1=CC=C(C=C1)F)=O | C20H19FN2O
